US07956069B2
The preparation of tert-butyl 4-[(3aR,7aS)-2-oxooctahydro-1H-indol-1-yl]piperidine-1-carboxylate
((1R,2S)-2-{[1-(tert-butoxycarbonyl)piperidin-4-yl]amino}cyclohexyl)acetic acid was dissolved in DMF (3 mL) and diisopropyl ethylamine (50 μL) and HATU (0.1 g, 0.26 mmol) was then added and the mixture stirred at room temperature over night. The solvent was then removed under reduced pressure and the mixture was diluted in dichloromethane. Washed with 1N NaOH and with brine and the solvent was then removed under reduced pressure to give the tile compound. MS (M+1): 323.24

reactant | ((1R,2S)-2-{[1-(tert-butoxycarbonyl)piperidin-4-yl]amino}cyclohexyl)acetic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)N[C@@H]1[C@H](CCCC1)CC(=O)O | C18H32N2O4
reactant | diisopropyl ethylamine | 50 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 0.26 mmol, 0.1 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-[(3aR,7aS)-2-oxooctahydro-1H-indol-1-yl]piperidine-1-carboxylate | O=C1N([C@H]2CCCC[C@@H]2C1)C1CCN(CC1)C(=O)OC(C)(C)C | C18H30N2O3
